US06617339B1
3-(3-Fluoro-4-(5-methyl-imidazol-1-yl)phenyl)-5(R)-hydroxymethyloxazolidin-2-one
5-Benzyloxycarbonylamino-2-(5-methyl-imidazol-1-yl)fluorobenzene (3.2 g, 9.85 mmol) was dissolved in dry tetrahydrofuran (40 ml) under nitrogen, cooled to −70°, and treated with a solution of n-butyllithium (1.6 M in isohexane, 6.81 ml). After stirring for 20 minutes at −70°, (R)-glycidylbutyrate (1.57 g, 10.09 mmol) was added at −70°. Stirring was continued for 16 hours allowing the temperature to rise to ambient. The mixture was treated MeOH (10 ml), stirred 15 minutes, then poured into aqueous sodium bicarbonate (5%, 100 ml) and extracted with EtOAc (3×40 ml). The combined extracts were washed with brine (20 ml), dried (magnesium sulfate) and evaporated. and the residue purified by chromatography on a 20 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 5 to 10% MeOH in dichloromethane. Relevant fractions were combined and evaporated, to give the desired product (0.86 g). MS (ESP): 292 (MH+) for C14H14FN3O3.

reactant | 5-Benzyloxycarbonylamino-2-(5-methyl-imidazol-1-yl)fluorobenzene | 9.85 mmol, 3.2 g | C(C1=CC=CC=C1)OC(=O)NC=1C=CC(=C(C1)F)N1C=NC=C1C | C18H16FN3O2
reactant | n-butyllithium | 1.6 M, 6.81 ml | C(CCC)[Li]
reactant | (R)-glycidylbutyrate | 10.09 mmol, 1.57 g | C([C@H]1CO1)OC(CCC)=O | C7H12O3
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | MeOH | 10 ml | CO | CH4O
product | 3-(3-Fluoro-4-(5-methyl-imidazol-1-yl)phenyl)-5(R)-hydroxymethyloxazolidin-2-one | 0.86 g | FC=1C=C(C=CC1N1C=NC=C1C)N1C(O[C@H](C1)CO)=O | C14H14FN3O3
